US04070464
A mixture of 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol (6.0 g., 0.02 mole), 1-methyl-4-piperidone (2.24 g., 0.02 mole), acetic acid (2 ml.) and benzene (100 ml.) is refluxed under a Dean-Stark trap for 4 hrs. The clear yellow solution then is washed with 2% sodium hydroxide solution, water and salt brine and dried (MgSO4). The residue that remains after evaporation of the benzene is crystallized from ethanol to obtain 3,4-dihydro-6-(1,1-dimethylethyl)-8-iodo-1'-methylspiro[2H-1,3-benzoxazin-2,4'-piperidine], (4.6 g.), m.p. 155°-156.5° C.

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol | 0.02 mole, 6.0 g | NCC1=C(C(=CC(=C1)C(C)(C)C)I)O | C11H16INO
reactant | 1-methyl-4-piperidone | 0.02 mole, 2.24 g | CN1CCC(CC1)=O | C6H11NO
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3,4-dihydro-6-(1,1-dimethylethyl)-8-iodo-1'-methylspiro[2H-1,3-benzoxazin-2,4'-piperidine] | 4.6 g | CC(C)(C)C=1C=C(C2=C(CNC3(CCN(CC3)C)O2)C1)I | C17H25IN2O
